US04551278
20-isocyano-20-p-methylphenylsulfonyl-21-benzoxy-pregna-1,4,16-triene-3-one
The title compound was prepared according to the method described in Example 8a, starting from 17-(isocyano-p-methylphenylsulfonylmethylene)-androsta-1,4-diene-3-one (462 mg, 1 mmol). Yield: 625 mg of a mixture of the title compound and chloromethyl benzylether (1:1).

reactant | 17-(isocyano-p-methylphenylsulfonylmethylene)-androsta-1,4-diene-3-one | 1 mmol, 462 mg | [N+](#[C-])C(S(=O)(=O)C1=CC=C(C=C1)C)=C1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O | C28H31NO3S
reactant | chloromethyl benzylether | ClCOCC1=CC=CC=C1 | C8H9ClO
product | 20-isocyano-20-p-methylphenylsulfonyl-21-benzoxy-pregna-1,4,16-triene-3-one | [N+](#[C-])C(COCC1=CC=CC=C1)(C1=CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@H]3CC[C@]12C)=O)S(=O)(=O)C1=CC=C(C=C1)C | C36H39NO4S
